US07906504B2
In an open, 50 mL two-necked round bottom flask, a neat mixture of compound 3-(3-chlorophenyl)-7-methoxyisochromen-1-one (1.00 g, 3.49 mmol) and 2-amino-N-isopropylacetamide (INTERMEDIATE I.1) (2.02 g, 17.4 mmol, 5 eq) was heated to 120° C. under argon for 3 days, adding absolute EtOH in aliquots (2 mL) daily to loosen up the reaction mixture. The residue was purified by chromatography on silica gel with ethyl acetate:hexane (1:3, v/v) as eluent to give 2-[3-(3-chlorophenyl)-7-methoxy-1-oxo-1H-isoquinolin-2-yl]-N-isopropylacetamide (0.985 g, 2.56 mmol, 73%) as a white solid.

reactant | 3-(3-chlorophenyl)-7-methoxyisochromen-1-one | 3.49 mmol, 1.00 g | ClC=1C=C(C=CC1)C=1OC(C2=CC(=CC=C2C1)OC)=O | C16H11ClO3
reactant | 2-amino-N-isopropylacetamide | 17.4 mmol, 2.02 g, 5 eq | NCC(=O)NC(C)C | C5H12N2O
solvent | EtOH | CCO | C2H6O
product | 2-[3-(3-chlorophenyl)-7-methoxy-1-oxo-1H-isoquinolin-2-yl]-N-isopropylacetamide | 2.56 mmol, 0.985 g, 73% | ClC=1C=C(C=CC1)C=1N(C(C2=CC(=CC=C2C1)OC)=O)CC(=O)NC(C)C | C21H21ClN2O3
